US04409390
8-Chloro-6-(2-fluorophenyl)-1-methyl-3-(2-propynyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine
By means of a syringe 7 ml (4.2 mmole) of a 0.62 M tetrahydrofuran solution of lithium diisopropylamide was added dropwise to a solution of 1.3 g (4.0 mmole) of 8-chloro-6-(2-fluorophenyl)-1-methyl-2H,4H-pyrrolo[3,4-d][2]benzazepine in 30 ml of dry tetrahydrofuran which was cooled to -20° C. The solution was stirred at -20° C. for 5 minutes followed by the addition of 2.4 ml (25 mmole) of 80% propargyl bromide in toluene. The mixture was allowed to warm to room temperature and stirred for 2 hours. Water was added and the mixture was extracted with ether. The ether solution was washed with water, dried over anhydrous sodium sulfate, and concentrated at reduced pressure to give an amber foam. Purification by column chromatography (silica gel, 20 g; eluent 5% ether in methylene chloride) gave a foam. Crystallization from a mixture of ether and petroleum ether gave cream prisms. (mp 179-180).

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 8-chloro-6-(2-fluorophenyl)-1-methyl-2H,4H-pyrrolo[3,4-d][2]benzazepine | 4.0 mmole, 1.3 g | ClC1=CC2=C(C=3C(CN=C2C2=C(C=CC=C2)F)=CNC3C)C=C1 | C19H14ClFN2
reactant | propargyl bromide | 25 mmole, 2.4 ml | C(C#C)Br | C3H3Br
reactant | Water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 0.62 M | O1CCCC1 | C4H8O
product | 8-Chloro-6-(2-fluorophenyl)-1-methyl-3-(2-propynyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine | ClC1=CC2=C(C=3C(CN=C2C2=C(C=CC=C2)F)=C(NC3C)CC#C)C=C1 | C22H16ClFN2
